US05629419
To a mixture of (3S)-3-amino-3-carboxypropionic acid methyl ester hydrochloride (206 g), sulfuric acid (552 g), potassium bromide (536 g) and water (2510 ml) is added dropwise a solution of sodium nitrite (93 g) in water (200 ml) at a temperature from 10° C. to 12° C. over a period of 45 minutes. The mixture is stirred at the same temperature for 20 minutes, and thereto is added urea (40 g) in portions. The mixture is extracted with ether, and the extract is washed, dried, and concentrated under reduced pressure to give (3S)-3-bromo-3-carboxypropionic acid methyl ester (148 g) as an oily product.

reactant | (3S)-3-amino-3-carboxypropionic acid methyl ester hydrochloride | 206 g | Cl.COC(C[C@@H](C(=O)O)N)=O
reactant | sulfuric acid | 552 g | S(O)(O)(=O)=O | H2O4S
reactant | potassium bromide | 536 g | [Br-].[K+]
reactant | sodium nitrite | 93 g | N(=O)[O-].[Na+]
reactant | urea | 40 g | NC(=O)N | CH4N2O
solvent | water | 200 ml | O | H2O
solvent | water | 2510 ml | O | H2O
product | (3S)-3-bromo-3-carboxypropionic acid methyl ester | 148 g | COC(C[C@@H](C(=O)O)Br)=O | C5H7BrO4
